US07638625B2
4-(1,2,4,5-tetrahydro-2-oxo-3H-1,3-benzodiazepin-3-yl)-(1R)-1-[(4-hydroxy-3,5-dimethylphenyl)methyl]-2-[4-(4-morpholinyl)-1-piperidinyl]-2-oxoethyl 1-piperidinecarboxylate hydrobromide (3a)
0.5 g (0.79 mmol) 4-(1,2,4,5-tetrahydro-2-oxo-3H-1,3-benzodiazepin-3-yl)-(1R)-1-[(4-hydroxy-3,5-dimethylphenyl)methyl]-2-[4-(4-morpholinyl)-1-piperidinyl]-2-oxoethyl 1-piperidinecarboxylate are suspended in 5 ml n-propanol at ambient temperature and heated to 70° C. After the addition of 157 μl hydrobromic acid (30% in glacial acetic acid) the mixture is stirred for 1 hour at 70° C. and 20 hours at 40° C. Then the suspension formed is cooled to ambient temperature, stirred for 5 hours and filtered. The residue is dried for 4 hours at 80° C.

reactant | 4-(1,2,4,5-tetrahydro-2-oxo-3H-1,3-benzodiazepin-3-yl)-(1R)-1-[(4-hydroxy-3,5-dimethylphenyl)methyl]-2-[4-(4-morpholinyl)-1-piperidinyl]-2-oxoethyl 1-piperidinecarboxylate | 0.79 mmol, 0.5 g | N1(CCCCC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)(N1CCOCC1)N1C(NC2=C(CC1)C=CC=C2)=O)CC2=CC(=C(C(=C2)C)O)C | C35H47N5O6
reactant | hydrobromic acid | 157 μl | Br | BrH
solvent | n-propanol | 5 ml | C(CC)O | C3H8O
product | 4-(1,2,4,5-tetrahydro-2-oxo-3H-1,3-benzodiazepin-3-yl)-(1R)-1-[(4-hydroxy-3,5-dimethylphenyl)methyl]-2-[4-(4-morpholinyl)-1-piperidinyl]-2-oxoethyl 1-piperidinecarboxylate hydrobromide | Br.N1(CCCCC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)(N1CCOCC1)N1C(NC2=C(CC1)C=CC=C2)=O)CC2=CC(=C(C(=C2)C)O)C | InChI=1S/C35H47N5O6.BrH/c1-25-22-27(23-26(2)31(25)41)24-30(46-34(44)38-13-6-3-7-14-38)32(42)37-16-11-35(12-17-37,39-18-20-45-21-19-39)40-15-10-28-8-4-5-9-29(28)36-33(40)43;/h4-5,8-9,22-23,30,41H,3,6-7,10-21,24H2,1-2H3,(H,36,43);1H/t30-;/m1./s1
